Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][C:2][C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],3.40853736608
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3](=[O:4])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],0.242677307328
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10].[O:11][H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-2.73774403515
[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:4].[O:1]=[C:2]([H:3])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],1.03964816183
[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.54759680421
[H:1][C:2]([O:3])=[O:4]>>[H:1][C:2]1[O:3][O:4]1,3.62469928227
[C:5]([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-6.53204487918
[C:2]([H:3])[H:4].[O:1]>>[O:1]=[C:2]([H:3])[H:4],-8.52964849
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])[O:5][H:6],4.6319752337
[C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]>>[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.20501019683
[C:1]#[C:2][O:3][H:4].[C:5](#[C:6])[O:7][H:8]>>[C:1]=[C:2]([O:3][H:4])[C:5](=[C:6])[O:7][H:8],-1.59648393972
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[O:11]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10][O:11]1,2.58808953307
[C:5]=[O:6].[O:1]=[C:2]=[C:3]([H:4])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2][C:3]([H:4])([C:5]=[O:6])[C:7]([H:8])([H:9])[H:10],1.72706859074
[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]#[C:3][H:4].[O:5]=[C:6][C:7]([H:8])([H:9])[H:10],-1.7670807198299998
[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[C:2]#[C:3][O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10].[H:1],5.516027074069999
[C:7]([H:8])([H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.2098319401200002
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7](=[O:8])[H:9].[H:10]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([O:8])([H:9])[H:10],-1.19978918239
[H:1][C:2]#[C:3][C:5]#[C:6][O:7][O:8][H:9].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][O:7][O:8][H:9],-1.6700044126499998
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.65457506336
[H:1][C:2][O:3][C:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:1][C:2].[O:3]=[C:4]=[C:5]([H:6])[C:7]([H:8])[H:9],2.63182835904
[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3]=[C:4]=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-4.99308519626
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]1([H:10])[C:11][O:12]1>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]=[O:12],-2.6134144845900003
[C:6]([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]#[C:4][H:5]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-2.6121967513900004
[H:1][C:2]=[C:3]([O:4][O:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][C:2]=[C:3]([O:4][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.73180965405
[C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-6.655563505060001
[H:1][C:2]=[C:3]([H:4])[O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[H:11].[H:1][C:2]=[C:3]([H:4])[O:5][C:6][O:7][C:8]([H:9])[H:10],4.68195413118
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])[C:5]([H:6])=[O:7]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.27743135229
[H:12].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12],-3.9945508135300023
[C:5]([H:6])([H:7])=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])[O:4]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-1.3959342202899998
[H:1][C:2][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-5.35191497641
